US07074800B1
Using a procedure analogous to that described for Example 9, 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline (0.13 g, 0.4 mmol), (prepared as described for the starting material in Example 10), was reacted with 2,2,4-trimethyl-1,2-dihydroquinolin-6-ol (95 mg, 0.5 mmol), (IZV. ACAD. NAVK. SSSR. Ser. Khim. 1981, 9, 2008), to give 6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)-4-(2,2,4-trimethyl-1,2-dihydroquinolin-6-yloxy)quinazoline (140 mg, 74%).

reactant | 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline | 0.4 mmol, 0.13 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
reactant | 2,2,4-trimethyl-1,2-dihydroquinolin-6-ol | 0.5 mmol, 95 mg | CC1(NC2=CC=C(C=C2C(=C1)C)O)C | C12H15NO
product | 6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)-4-(2,2,4-trimethyl-1,2-dihydroquinolin-6-yloxy)quinazoline | 140 mg, 74% | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)OC=1C=C2C(=CC(NC2=CC1)(C)C)C | C28H34N4O3
